resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 40.988193
R2 0 n2 0.993477
R3 0 n4 0.998405
R4 n1 n3 1.012746
R5 n1 n5 0.988687
R6 n2 n3 0.994434
R7 n2 n6 1.002904
R8 n3 n7 1.017559
R9 n4 n5 1.018024
R10 n4 n6 0.998908
R11 n5 n7 0.985171
R12 n6 n7 1.009923
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
